US06500863B1
N(3-methylthiopropyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
N-(3- methylthiopropyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (300 mg, 0.88 mmol) was reduced with hydrogen and 10% Pd/C (150 mg) to form the desired product (250 mg, 91%). 1H NMR (MeOD-d4): δ 6.84 (d, 1H), 6.77 (d, 1H), 2.93 (t, 2H), 2.40 (t, 2H), 1.89 (s, 3H), 1.63 (m, 2H).

reactant | N-(3- methylthiopropyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 0.88 mmol, 300 mg | CSCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C10H13ClN2O5S2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | N(3-methylthiopropyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 250 mg, 91% | CSCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C10H15ClN2O3S2
